US07851490B2
2-{1-[1-(3-Pyridin-3-yl-phenyl)-1H-benzoimidazol-5-yl]-ethyl}-isoindole-1,3-dione
This was prepared analogously from 2-{1-[1-(3-bromo-phenyl)-1H-benzoimidazol-5-yl]-ethyl}-isoindole-1,3-dione and 3-pyridineboronic acid

reactant | 2-{1-[1-(3-bromo-phenyl)-1H-benzoimidazol-5-yl]-ethyl}-isoindole-1,3-dione | BrC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(C)N2C(C1=CC=CC=C1C2=O)=O | C23H16BrN3O2
reactant | 3-pyridineboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 2-{1-[1-(3-Pyridin-3-yl-phenyl)-1H-benzoimidazol-5-yl]-ethyl}-isoindole-1,3-dione | N1=CC(=CC=C1)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(C)N2C(C1=CC=CC=C1C2=O)=O | C28H20N4O2
